US06492348B1
(3aS ,4S ,6R,6aR)-6-(6-Chloropurin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid methoxy-methyl-amide
(3aS,4S,6R,6aR)-6-(6-Chloro-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid (35.88 g) was dissolved in dichloromethane (300 ml) and treated with 1,1′-carbonyldiimidazole (20.5 g) with ice-cooling. The solution was stirred at 22° C. for 1 h, N,O-dimethylhydroxylamine hydrochloride (12.3 g) and pyridine (15 ml) were added, and stirring was continued at 22° C. for 24 h. The solution was washed with 0.5M citric acid (250 ml) and 8% sodium bicarbonate (200 ml), dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography over silica gel, eluting with ethyl acetate to afford the title compound as a colourless solid (26.4 g).

reactant | (3aS,4S,6R,6aR)-6-(6-Chloro-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid | 35.88 g | ClC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)O | C13H13ClN4O5
reactant | 1,1′-carbonyldiimidazole | 20.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,O-dimethylhydroxylamine hydrochloride | 12.3 g | Cl.CNOC
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | (3aS ,4S ,6R,6aR)-6-(6-Chloropurin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid methoxy-methyl-amide | 26.4 g | CON(C(=O)[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)Cl)C | C15H18ClN5O5
